US03931180
2-Methylthio-4-methoxy-6-hydroxypyrimidine
15.8 g (0.2 mol) of 2-methylthio-4,6-dihydroxypyrimidine are added while stirring well, to 100 cc of 2N sodium hydroxide solution and the mixture is stirred at 50° for half an hour. The mixture is subsequently cooled to room temperature and 13.9 g (0.11 mol) of dimethyl sulphate are added dropwise, while stirring; by the addition of sodium hydroxide solution 2N the pH value is kept at between 8 and 8.2. After the dropwise addition a precipitate is obtained. The mixture is stirred at 50° for a further 21/2 hours, whereby the pH value is kept at between 8 and 8.3, then cooled to 0° and filtered. The obtained white powder has an M.P. of 193°-195°.

reactant | 2-methylthio-4,6-dihydroxypyrimidine | 0.2 mol, 15.8 g | CSC1=NC(=CC(=N1)O)O | C5H6N2O2S
reactant | dimethyl sulphate | 0.11 mol, 13.9 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | sodium hydroxide | 2N, 100 cc | [OH-].[Na+]
solvent | sodium hydroxide | 2N | [OH-].[Na+]
product | 2-Methylthio-4-methoxy-6-hydroxypyrimidine | CSC1=NC(=CC(=N1)OC)O | C6H8N2O2S
